US05576313
Step 6: Preparation of 4-(2-methylbenzyl)isonipecotyl-L-methionine methyl ester HCl salt
A stream of anhydrous HCl gas was bubbled through a cold (0° C.) solution of (N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotyl) L-methionine methyl ester (315 mg, 0.66 mmol) in 30 ml of EtOAc for 10 min. and the reaction solution stirred 1 h more at 0° C. The solution was then purged with argon for 10 min. and allowed to warm to room temp. Concentration of the solution in vacuo afforded the product as a colorless gum.

reactant | HCl | Cl | ClH
reactant | (N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotyl) L-methionine methyl ester | 0.66 mmol, 315 mg | COC([C@@H](NC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O)CCSC)=O | C25H38N2O5S
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 4-(2-methylbenzyl)isonipecotyl-L-methionine methyl ester HCl salt | Cl.COC([C@@H](NC(C1(CCNCC1)CC1=C(C=CC=C1)C)=O)CCSC)=O | InChI=1S/C20H30N2O3S.ClH/c1-15-6-4-5-7-16(15)14-20(9-11-21-12-10-20)19(24)22-17(8-13-26-3)18(23)25-2;/h4-7,17,21H,8-14H2,1-3H3,(H,22,24);1H/t17-;/m0./s1
